US07888503B2
A 5 mL microwave tube was charged with 2-fluorobenzophenone (0.40 g), ethylene diamine (0.40 g) and ethanol (4 mL). The mixture was heated in a microwave at 180° C. for 10 minutes. The contents were concentrated to an oil and dissolved in methylene chloride. The resulting solution was purified by silica gel chromatography. Any unreacted benzophenone was eluted with methylene chloride and then the desired product was eluted with 70% ethyl acetate in hexanes. Desired fractions were concentrated to provide 5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine as a yellow crystalline solid. H1 NMR (d6-dmso): 7.30-7.42 (m, 5H), 7.12 (dd, 1H), 6.78 (d, 1H), 6.75 (d, 1H), 6.49 (dd, 1H), 6.05 (br t, 1H), 3.84 (m, 2H), 3.56 (m, 2H).

reactant | 2-fluorobenzophenone | 0.40 g | FC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H9FO
reactant | ethylene diamine | 0.40 g | C(CN)N | C2H8N2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-phenyl-2,3-dihydro-1H-1,4-benzodiazepine | C1(=CC=CC=C1)C1=NCCNC2=C1C=CC=C2 | C15H14N2
